US07820825B2
A solution of methyl 4-((1H-benzo[d]imidazol-2-yl)methyl)benzoate (5 g, 0.019 mol) in methanol was treated with sodium hydroxide (1.50 g, 0.037 mol) and water, heated to 65° C., stirred for 3 h and concentrated under reduced pressure. The resultant residue was dissolved in water and acidified with concentrated HCl. The resultant precipitate was removed by filtration and dried under vacuum overnight to provide 4-((1H-benzo[d]imidazol-2-yl)methyl)benzoic acid (82.0%). 1H NMR-(400 MHz, DSMO-d6): 7.96 (d, J=8 Hz, 2H), 7.91 (m, J=9 Hz, 2H), 7.60 (d, J=8 Hz, 2H), 7.52 (m, J=6 Hz, 2H), 4.65 (s, 2H). LCMS (ESI+) 253 (M+H). A portion of 4-((1H-benzo[d]imidazol-2-yl)methyl)benzoic acid (5.0 g, 0.020 mol) was dissolved in dichloromethane, cooled to 0° C., treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.50 g, 0.023 mol), 1-hydroxybenzotriazole (HOBT) (3.21 g, 0.024 mol), and diisopropylethylamine (6.41 g, 0.049 mol), stirred at room temperature for 30 min, cooled to 0° C., treated with a solution of 3-pyrrolidinol (1.89 g, 0.021 mol) in dichloromethane, stirred at room temperature for 24 h and diluted with water. The phases were separated and the organic phase was washed sequentially with saturated aqueous NaHCO3, saturated aqueous NaCl, dried over sodium sulfate and concentrated to dryness under reduced pressure to provide [4-(1H-benzoimidazol-2-ylmethyl)-phenyl]-(3-hydroxy-pyrrolidin-1-yl)-methanone (34%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6): 7.47 (s, 4H), 7.38 (d, J=7.6 Hz, 2H), 4.87 (s, J=4.2 Hz, 1H), 4.21 (d, 2H), 3.48 (m, 4 H), 1.85 (m, 2H). LCMS (ESI+) 322 (M+H).

reactant | 4-((1H-benzo[d]imidazol-2-yl)methyl)benzoic acid | 0.020 mol, 5.0 g | N1C(=NC2=C1C=CC=C2)CC2=CC=C(C(=O)O)C=C2 | C15H12N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.023 mol, 4.50 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.024 mol, 3.21 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.049 mol, 6.41 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-pyrrolidinol | 0.021 mol, 1.89 g | N1CC(CC1)O | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | [4-(1H-benzoimidazol-2-ylmethyl)-phenyl]-(3-hydroxy-pyrrolidin-1-yl)-methanone | 34% | N1C(=NC2=C1C=CC=C2)CC2=CC=C(C=C2)C(=O)N2CC(CC2)O | C19H19N3O2
